US08084485B2
(4S,5R)-tert-Butyl 4-((S)-2-(benzyloxymethyl)-3-methylbutyl)-5-((2,2-dimethylhexanamido)methyl)-2,2-dimethyloxazolidine-3-carboxylate (3.0 g, 5.5 mol) was dissolved in EtOH (30 mL) and Pd(OH)2/C (300 mg) was added. The reaction mixture was stirred under an atmosphere of hydrogen at rt for about 3-4 h. TLC showed the starting material had been consumed. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure to give (4S,5R)-tert-butyl 5-((2,2-dimethylhexanamido)methyl)-4-((S)-2-(hydroxymethyl)-3-methylbutyl)-2,2-dimethyloxazolidine-3-carboxylate (2.40 g, 96%) which was used in the next step without purification. 1H NMR (400 MHz, CDCl3): 0.87 (m, 6H), 1.16 (m, 6H), 1.47 (s, 9H), 1.59 (s, 1H), 2.16 (m, 1H), 2.88 (m, 1H), 3.49 (m, 1H), 3.98 (m, 1H); MS: 457 (M++1)

reactant | (4S,5R)-tert-Butyl 4-((S)-2-(benzyloxymethyl)-3-methylbutyl)-5-((2,2-dimethylhexanamido)methyl)-2,2-dimethyloxazolidine-3-carboxylate | 5.5 mol, 3.0 g | C(C1=CC=CC=C1)OC[C@@H](C[C@@H]1N(C(O[C@@H]1CNC(C(CCCC)(C)C)=O)(C)C)C(=O)OC(C)(C)C)C(C)C | C32H54N2O5
solvent | EtOH | 30 mL | CCO | C2H6O
catalyst | Pd(OH)2/C | 300 mg | [OH-].[OH-].[Pd+2]
product | (4S,5R)-tert-butyl 5-((2,2-dimethylhexanamido)methyl)-4-((S)-2-(hydroxymethyl)-3-methylbutyl)-2,2-dimethyloxazolidine-3-carboxylate | 2.40 g, 96% | CC(C(=O)NC[C@@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)C[C@@H](C(C)C)CO)(CCCC)C | C25H48N2O5
